US09278950B2
Step 9. 3-Amino-N-{4-[(3S,5R)-3-amino-5-methylpiperidin-1-yl]pyridin-3-yl}-7-morpholin-4-ylquinoline-2-carboxamide
A mixture of benzyl {2-[({4-[(3S,5R)-3-amino-5-methylpiperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-morpholin-4-ylquinolin-3-yl}carbamate (0.002 g, 0.003 mmol) in 2 mL of 4 M HBr in AcOH solution was stirred at room temperature for 2 h. The solution was then concentrated under reduced pressure and the residue was treated with 4.5 mL of MeOH and 0.5 mL of NH4OH solution. The mixture was filtered and the filtrate was purified by preparative HPLC (XBridge™ C18 column, eluting with a gradient of MeCN/water containing 0.1% NH4OH, at a flow rate of 30 mL/min.) to afford the title compound. LCMS calc. for C25H32N7O2 [M+H]+: m/z=462.3. found: 462.3.

reactant | benzyl {2-[({4-[(3S,5R)-3-amino-5-methylpiperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-morpholin-4-ylquinolin-3-yl}carbamate | 0.003 mmol, 0.002 g | N[C@@H]1CN(C[C@@H](C1)C)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)N1CCOCC1 | C33H37N7O4
solvent | HBr | 4 M, 2 mL | Br | BrH
solvent | AcOH | CC(=O)O | C2H4O2
product | 3-Amino-N-{4-[(3S,5R)-3-amino-5-methylpiperidin-1-yl]pyridin-3-yl}-7-morpholin-4-ylquinoline-2-carboxamide | NC=1C(=NC2=CC(=CC=C2C1)N1CCOCC1)C(=O)NC=1C=NC=CC1N1C[C@H](C[C@H](C1)C)N | C25H31N7O2
